US20010047099A1
To a solution of methyl 4,6-dibromo-3-chloropyridine-2-carboxylate (6.0 g 0.018 mol) in DMF (50 mL) was added sodium azide (2.0 g 0.03 mol) and the solution warmed to 50° C. for 1 hr. The reaction was diluted with water (200 mL) and cooled to 0° C. for 1 hr. The solid was collected to give methyl 4-azido-6-bromo-3-chloropyridine-2-carboxylate (4.4 g, 0.012 mol, 66%); mp 84-86° C.

reactant | methyl 4,6-dibromo-3-chloropyridine-2-carboxylate | 0.018 mol, 6.0 g | BrC1=C(C(=NC(=C1)Br)C(=O)OC)Cl | C7H4Br2ClNO2
reactant | sodium azide | 0.03 mol, 2.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | methyl 4-azido-6-bromo-3-chloropyridine-2-carboxylate | 0.012 mol, 4.4 g, 66% | N(=[N+]=[N-])C1=C(C(=NC(=C1)Br)C(=O)OC)Cl | C7H4BrClN4O2
